US03968104
A solution of 750 g of N-methyl-N-(2-cyanoethyl)glycine ethyl ester (prepared from methylaminopropionitrile and ethyl chloroacetate) in 1 liter of ethanol is hydrogenated in the presence of 60 g of Raney cobalt in an autoclave at a temperature of from 80° to 90°C and under a pressure of 100 to 120 atms. of hydrogen. The calculated quantity of hydrogen has been absorbed after about 1 hour. The hydrogenated solution is filtered off from the catalyst. The solid residue left after the ethanol has been evaporated is freed from any greases adhering to it by means of a little ethyl acetate, and the white product, which does not show any tendency towards discoloration in air, is fractionated in a high vacuum with 5 g of sodium methoxide. 424 g of 1-N-methyl-hexahydro-1,4-diazepin-3-one melting at 91°C are obtained.

reactant | N-methyl-N-(2-cyanoethyl)glycine ethyl ester | 750 g | C(C)OC(CN(CCC#N)C)=O | C8H14N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1 liter | C(C)O | C2H6O
catalyst | cobalt | [Co] | Co
product | 1-N-methyl-hexahydro-1,4-diazepin-3-one | 424 g | CN1CC(NCCC1)=O | C6H12N2O
